US04018777
10-Hydroxy-8-(3-Methyl-2-Octyl)-5-Oxo-5H-[1]Benzopyrano[4,3-c]Pyridine
A mixture of 3.42 g. of 2-benzyl-10-hydroxy-8-(3-methyl-2-octyl)-5-oxo-1,2,3,4-tetrahydro-5H-[1]benzopyrano[4,3-c]pyridine, 1.0 g. of 10% palladium on carbon, and 120 ml. of xylene was stirred and refluxed for 23 hours. The mixture was filtered to remove the catalyst and the filtrate was evaporated to dryness in vacuo. The residue was recrystallized from acetonitrile to yield the pure product; m.p. 122°-123°.

reactant | 2-benzyl-10-hydroxy-8-(3-methyl-2-octyl)-5-oxo-1,2,3,4-tetrahydro-5H-[1]benzopyrano[4,3-c]pyridine | C(C1=CC=CC=C1)N1CC2=C(CC1)C(OC1=C2C(=CC(=C1)C(C)C(CCCCC)C)O)=O | C28H35NO3
catalyst | palladium on carbon | [Pd] | Pd
solvent | xylene | C=1(C(=CC=CC1)C)C | C8H10
product | 10-Hydroxy-8-(3-Methyl-2-Octyl)-5-Oxo-5H-[1]Benzopyrano[4,3-c]Pyridine | OC1=CC(=CC2=C1C=1C=NC=CC1C(O2)=O)C(C)C(CCCCC)C | C21H25NO3
